US07244763B2
Step 3. Preparation of {6-[5-(4-Chloro-phenyl)-isoxazol-3-ylmethoxy]-benzofuran-3-yl}-acetic acid (Compound 24)
A solution of {6-[5-(4-chloro-phenyl)-isoxazol-3-ylmethoxy]-benzofuran-3-yl}-acetic acid methyl ester (0.20 g, 0.50 mmol) in 8.0 ml of tetrahydrofuran was treated with lithium hydroxide monohydrate (0.10 g, 2.4 mmol), followed by 2.5 ml of water. The mixture was stirred at room temperature for 16 hours and added to 75 ml of water. The solution was made strongly acidic by the addition of 4.0 N hydrochloric acid. The precipitated product was extracted with ethyl acetate (4×75 ml). The combined organic layers were washed with brine (2×150 ml), then dried over anhydrous sodium sulfate and evaporated to a white solid. The crude product was recrystallized from aqueous acetonitrile. mp 193–194° C.; IR (thin film) cm−1: 1716, 1611, 1434, 1288, 1224, 1146; 400 MHz 1H NMR (DMSO-d6) 12.39 (br s, 1H), 7.87 (d, 2H, J=8.8 Hz), 7.73 (s, 1H), 7.55 (d, 2H, J=8.8 Hz), 7.44 (d, 1H, J=8.6 Hz), 7.28 (d, 1H, J=2.0 Hz), 7.19 (s, 1H), 6.93–6.96 (m, 1H), 5.24 (2, 2H), 3.59 (s, 2H); MS m/z 382 (M−1). Anal. Calc'd for C20H14ClNO5: C, 62.59; H, 3.68; N, 3.65; found: C, 62.87; H, 3.67; N, 3.61.

reactant | {6-[5-(4-chloro-phenyl)-isoxazol-3-ylmethoxy]-benzofuran-3-yl}-acetic acid methyl ester | 0.50 mmol, 0.20 g | COC(CC1=COC2=C1C=CC(=C2)OCC2=NOC(=C2)C2=CC=C(C=C2)Cl)=O | C21H16ClNO5
reactant | lithium hydroxide monohydrate | 2.4 mmol, 0.10 g | O.[OH-].[Li+]
reactant | water | 2.5 ml | O | H2O
reactant | water | 75 ml | O | H2O
reactant | hydrochloric acid | 4.0 N | Cl | ClH
solvent | tetrahydrofuran | 8.0 ml | O1CCCC1 | C4H8O
product | {6-[5-(4-Chloro-phenyl)-isoxazol-3-ylmethoxy]-benzofuran-3-yl}-acetic acid | ClC1=CC=C(C=C1)C1=CC(=NO1)COC1=CC2=C(C(=CO2)CC(=O)O)C=C1 | C20H14ClNO5
